US03991200
Preparation of 2-(2-Amino-5-thiadiazolyl)-1-methyl-5-nitroimidazole Hydrochloride
Four grams of 2-(2-amino-5-thiadiazolyl)-1-methyl-5-nitroimidazole is added to concentrated hydrochloric acid. The resultant precipitate of the hydrochloride is filtered off and air dried; melting point 249° C. with decomposition. When the hydrochloride is added to water, the free base is formed again without the necessity of using alkali.

reactant | 2-(2-amino-5-thiadiazolyl)-1-methyl-5-nitroimidazole | Four grams | NN1SC(=CN1)C=1N(C(=CN1)[N+](=O)[O-])C | C6H8N6O2S
reactant | hydrochloric acid | Cl | ClH
product | 2-(2-Amino-5-thiadiazolyl)-1-methyl-5-nitroimidazole Hydrochloride | Cl.NN1SC(=CN1)C=1N(C(=CN1)[N+](=O)[O-])C | InChI=1S/C6H8N6O2S.ClH/c1-10-5(11(13)14)3-8-6(10)4-2-9-12(7)15-4;/h2-3,9H,7H2,1H3;1H
